US06391874B1
1-(N,N-Dimethylaminopropyl)-5-tri-n-butylstannylimidazole
1-(N,N-Dimethylaminopropyl)-imidazole (3 g) was added to a mixture of TMEDA (7 ml) and n-butyl lithium (29.4 ml, 1.6M) in n-hexane (25 ml) at −20° C. under nitrogen. After 30 minutes at −20° C. and 30 minutes at 20° C., the mixture was recooled to −20° C. and tri-n-butylstannyl chloride (13.05 ml) was added dropwise. The mixture was allowed to warm to 20° C. and stirred there for 20 hours. The mixture was partitioned between ethyl acetate and water, the aqueous phase was extracted with ethyl acetate and combined organic extracts were dried and concentrated. Purification by flash chromatography gave the title compound (2.10 g); δH CDCl3 7.70 (1H,s), 7.01 (1H,s), 3.98 (2H,t), 2.20 (6H,s), 2.20 (2H,t), 1.90 (2H, m) 1.55 (6H,m), 1.37 (12H,m), 0.92 (9H,m).

reactant | 1-(N,N-Dimethylaminopropyl)-imidazole | 3 g | CN(C)CCCN1C=NC=C1 | C8H15N3
reactant | TMEDA | 7 ml | CN(C)CCN(C)C | C6H16N2
reactant | n-butyl lithium | 1.6M, 29.4 ml | C(CCC)[Li]
reactant | tri-n-butylstannyl chloride | 13.05 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | n-hexane | 25 ml | CCCCCC | C6H14
product | 1-(N,N-Dimethylaminopropyl)-5-tri-n-butylstannylimidazole | 2.10 g | CN(C)CCCN1C=NC=C1[Sn](CCCC)(CCCC)CCCC | InChI=1S/C8H14N3.3C4H9.Sn/c1-10(2)5-3-6-11-7-4-9-8-11;3*1-3-4-2;/h4,8H,3,5-6H2,1-2H3;3*1,3-4H2,2H3;
